US06127361
A hydrogen chloride ether saturated solution was added to a solution of 12.0. g (23.2 mmols) of (S)-(-)-5,11-dihydro-5-[1-(4-methoxyphenethyl)-2-pyrrolidinylmethyl]dibenzo[b,e][1,4]oxazepine in 50 ml of dichloromethane, and the mixture was stirred for 5 minutes. Then, the solvent was distilled off under reduced pressure. The resulting residue was recrystallized from a mixed solvent of acetone and diethyl ether to give 9.5 g of (S)-(-)-5,11-dihydro-5-[1-(4-methoxyphenethyl)-2-pyrrolidinylmethyl]dibenzo[b,e][1,4]oxazepine hydrochloride as a colorless prism crystal in a yield of 73%.

reactant | (S)-(-)-5,11-dihydro-5-[1-(4-methoxyphenethyl)-2-pyrrolidinylmethyl]dibenzo[b,e][1,4]oxazepine | 23.2 mmols | COC1=CC=C(CCN2[C@@H](CCC2)CN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | C27H30N2O2
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (S)-(-)-5,11-dihydro-5-[1-(4-methoxyphenethyl)-2-pyrrolidinylmethyl]dibenzo[b,e][1,4]oxazepine hydrochloride | 9.5 g, yield of 73% | Cl.COC1=CC=C(CCN2[C@@H](CCC2)CN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | InChI=1S/C27H30N2O2.ClH/c1-30-24-14-12-21(13-15-24)16-18-28-17-6-8-23(28)19-29-25-9-3-2-7-22(25)20-31-27-11-5-4-10-26(27)29;/h2-5,7,9-15,23H,6,8,16-20H2,1H3;1H/t23-;/m0./s1
